
.load ./c_debug.so

.global vdd

.subckt thing pp
  .global vdd
  R1 vdd pp 0
.ends

V1 vdd 0 5

X1 t thing
R2 0 t 2

*>.list
*>.print op v(nodes) i(R2)
*>.op
*>.status notime
*>.portdump
*>.end

.op
.print op v(t)

