difpair ckt - simple differential pair
* modified from Spice-3 examples

*>.opt rstray cstray outwidth=80
*.tf v(5) vin

vin 1 0 sin(0 0.1 5meg) ac 1 dc 0
vcc 8 0 12
vee 9 0 -12
q1 4 2 6 0 qnl
q2 5 3 6 0 qnl
rs1 1 2 1k
rs2 3 0 1k
rc1 4 8 10k
rc2 5 8 10k
q3 6 7 9 0 qnl
q4 7 7 9 0 qnl
rbias 7 8 20k
*.model qnl npn(bf=80 rb=100 ccs=2pf tf=0.3ns tr=6ns cje=3pf cjc=2pf
*+   va=50)
.model qnl npn(bf=80 rb=100 va=50 ccs=2pf)

*>.print op v(nodes)
.op
.plot tran v(4) v(5)
*>.plot tran v(4)(-4,12) v(5)(-4,12)
.tran 10ns 280ns
.plot ac vm(5) vp(5)
*>.plot ac vm(5)(0,100) vp(5)(-180,180)
.ac dec 3 1k 10ghz
.op
.ac dec 3 1k 10ghz
*>.status notime

.end
