Mutual inductance portdump, all but 2a
.load ./c_debug.so
.param L1 = .56
.param L2 = .79
.param L3 = .58
.param K12 = .75
.param K23 = .54
.param K13 = .66
.param Rsource = 22
.param Rload1 = 75
.param Rload2 = 90

.subckt trans3ss (a1 a2 b1 b2 c1 c2)
.param M12 = {K12*sqrt(L1*L2)}
l1 (a3 a2)       {L1}
l2 (b3 b2)       {L2}
l3 (c3 c2)        {L3}
e21 (a1 a3 b3 b2) {M12/L2}
e12 (b1 b3 a3 a2) {M12/L1}
e13 (c1 c3 a3 a2) {M13/L1}
.ends


* series model, using VCVS
.subckt trans3b (a1 a2 b1 b2 c1 c2)
.param M12 = {K12*sqrt(L1*L2)}
.param M23 = {K23*sqrt(L2*L3)}
.param M13 = {K13*sqrt(L1*L3)}
l1 (a3 a2)       {L1}
l2 (b3 b2)       {L2}
l3 (c3 c2)        {L3}
e21 (a4 a3 b3 b2) {M12/L2}
e31 (a1 a4 c3 c2) {M13/L3}
e12 (b4 b3 a3 a2) {M12/L1}
e32 (b1 b4 c3 c2) {M23/L3}
e13 (c4 c3 a3 a2) {M13/L1}
e23 (c1 c4 b3 b2) {M23/L2}
.ends

* nullor model
.subckt trans3c (a1 a2 b1 b2 c1 c2)
.param M12 = {K12*sqrt(L1*L2)}
.param M23 = {K23*sqrt(L2*L3)}
.param M13 = {K13*sqrt(L1*L3)}
r1l1 (a1 0)  1
r2l1 (a1 a3) -1
r3l1 (a3 a2) 1
r4l1 (a2 0)  -1
r1l2 (b1 0)  1
r2l2 (b1 b3) -1
r3l2 (b3 b2) 1
r4l2 (b2 0)  -1
r1l3 (c1 0)  1
r2l3 (c1 c3) -1
r3l3 (c3 c2) 1
r4l3 (c2 0)  -1
c1   (a3 0)  {-L1-M12-M13}
c2   (b3 0)  {-L2-M12-M23}
c3   (c3 0)  {-L3-M13-M23}
c12  (a3 b3) {M12}
c23  (b3 c3) {M23}
c13  (a3 c3) {M13}
.ends




vb1 (b1 0)           pulse(0 1 .002 .002 .002 .002 .01) ac 1
rb1 (b2 b1)          {Rsource}
xb1 (0 b2 0 b3 0 b4) trans3b L1=L1 L2=L2 L3=L3 K12=K12 K23=K23 K13=K13
rb2 (0 b3)           {Rload1}
rb3 (0 b4)           {Rload2}

vc1 (c1 0)           pulse(0 1 .002 .002 .002 .002 .01) ac 1
rc1 (c2 c1)          {Rsource}
xc1 (0 c2 0 c3 0 c4) trans3c L1=L1 L2=L2 L3=L3 K12=K12 K23=K23 K13=K13
rc2 (0 c3)           {Rload1}
rc3 (0 c4)           {Rload2}

vd1 (d1 0)           pulse(0 1 .002 .002 .002 .002 .01) ac 1
rd1 (d2 d1)          {Rsource}
xd1 (0 d2 0 d3 0 d4) trans3b L1=L1 L2=L2 L3=L3 K12=K12 K23=K23 K13=K13
rd2 (0 d3)           {Rload1}
rd3 (0 d4)           {Rload2}


.options nopage
.width out=200
.print ac vm(a2) vm(a3) vm(a4) vm(b2) vm(b3) vm(b4) vm(c2) vm(c3) vm(c4) vm(d2) vm(d3) vm(d4)
.ac dec 2 .1 1k
.portdump
.print ac vp(a2) vp(a3) vp(a4) vp(b2) vp(b3) vp(b4) vp(c2) vp(c3) vp(c4) vp(d2) vp(d3) vp(d4)
.ac dec 2 .1 1k
.print tran  v(a2) v(a3) v(a4) v(b2) v(b3) v(b4) v(c2) v(c3) v(c4) v(d2) v(d3) v(d4)
.tran .001 .01 0 .0001
.status notime
.portdump
.end
