'
i1 (0 1) dc 1
d1 (1 0) my_diode
.model my_diode d
.probe op v(1)
.op
.delete my_diode
.delete d1
.delete my_diode
.model my_diode d
d1 (1 0) my_diode
.probe op v(1)
.op
.end
