'
i1 (0 1) dc 1
d1 (1 0) my_diode
.model my_diode d is=2e-14
.probe op v(1)
.op
.delete d1
d1 (1 0) my_diode
.delete my_diode
.model my_diode d is=1e-14
.probe op v(1)
.op
.end
